US04820722
5-[(4-((4-Acetyl-3-hydroxy-2-propylphenyl)methoxy)phenyl)methyl]-2-(3-methylthiopropyl)-2H-tetrazole
5-[(4-((4-Acetyl-3-hydroxy-2-propylphenyl)methoxy)phenyl)methyl]-2-(3-bromopropyl)-2H-tetrazole (3.1 g, 0.006 mol) was dissolved in DMSO (20 ml). A large excess of sodium methyl sulfide was added and the reaction mixture was stirred at room temperature for three hours. Water (100 ml) was added and the reaction mixture was extracted with ethyl acetate. The ethyl acetate layers were combined, washed with water and brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was chromatographed by HPLC (preparatory-scale, silica gel column, eluted with a mixture of 9:1 toluene:ethyl acetate) to yield 2.1 g, 77.8% yield of the title product as a yellow oil which crystallized upon standing: n.m.r. (300 MHz, CDCl3) δ: 1.0 (t, 3H); 1.6 (m, 2H); 2.1 (s, 3H); 2.3 (m, 2H); 2.5 (m, 2H); 2.6 (s, 3H); 2.7 (t, 2H); 4.2 (s, 2 H); 4.7 (t, 2H); 5.1 (s, 1H); 6.9 (d, 2H); 7.0 (d, 1H); 7.3 (d, 2H); 7.6 (d, 1H); 12.7 (s, 1H).

reactant | 5-[(4-((4-Acetyl-3-hydroxy-2-propylphenyl)methoxy)phenyl)methyl]-2-(3-bromopropyl)-2H-tetrazole | 0.006 mol, 3.1 g | C(C)(=O)C1=C(C(=C(C=C1)COC1=CC=C(C=C1)CC=1N=NN(N1)CCCBr)CCC)O | C23H27BrN4O3
reactant | sodium methyl sulfide | CSC.[Na]
reactant | Water | 100 ml | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | 5-[(4-((4-Acetyl-3-hydroxy-2-propylphenyl)methoxy)phenyl)methyl]-2-(3-methylthiopropyl)-2H-tetrazole | 2.1 g, 77.8% yield | C(C)(=O)C1=C(C(=C(C=C1)COC1=CC=C(C=C1)CC=1N=NN(N1)CCCSC)CCC)O | C24H30N4O3S
